US05679696
3-Cyclopentyloxy-4-(methylthio)benzoic acid (0.7 g) is dissolved in toluene (20 mL) and heated at 80° C. for 1 hour 30 minutes in the presence of thionyl chloride (5 mL). The reaction mixture is concentrated to give 3-cyclopentyloxy-4-(methylthio)benzoyl chloride (0.76 g), in the form of a yellow oil.

reactant | 3-Cyclopentyloxy-4-(methylthio)benzoic acid | 0.7 g | C1(CCCC1)OC=1C=C(C(=O)O)C=CC1SC | C13H16O3S
reactant | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-cyclopentyloxy-4-(methylthio)benzoyl chloride | 0.76 g | C1(CCCC1)OC=1C=C(C(=O)Cl)C=CC1SC | C13H15ClO2S
